US07576082B2
To a solution of rac-5-({3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidine-1-carbonyl}-amino)-pyridine-2-carboxylic acid methyl ester (67 mg, 0.12 mmol) (from Example 83 d supra) in tetrahydrofuran (2 mL) was added the suspension of lithium hydroxide monohydrate (51 mg, 1.2 mmol) (Aldrich) in water (2 mL). The mixture was stirred at room temperature for overnight. The solvent was removed and the residue was partitioned between ethyl acetate and water. The aqueous layer was acidified to “pH”<5 with dilute HCl, then extracted with ethyl acetate several times. The combined organic layer was washed with water, brine, dried over MgSO4 and concentrated to give rac-5-({3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidine-1-carbonyl}-amino)-pyridine-2-carboxylic acid as a white solid. (Yield 45 mg, 69.2%).

reactant | rac-5-({3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidine-1-carbonyl}-amino)-pyridine-2-carboxylic acid methyl ester | 0.12 mmol, 67 mg | COC(=O)C1=NC=C(C=C1)NC(=O)N1CC(CCC1)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C28H26Cl2N4O4
reactant | lithium hydroxide monohydrate | 1.2 mmol, 51 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | rac-5-({3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidine-1-carbonyl}-amino)-pyridine-2-carboxylic acid | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)C1CN(CCC1)C(=O)NC=1C=CC(=NC1)C(=O)O | C27H24Cl2N4O4
